US06716851B2
4-(4,5-Dimethoxy-2-methylanilino)-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.191 mmol) and 4,5-dimethoxy-2-methylaniline (48 mg, 0.287 mmol) similar to Example 117 and isolated as a brown solid (47 mg, 56%). 1H NMR (CDCl3): 9.74 (d, J=1.5 Hz, 1H), 8.76 (dd, J=1.5, 2.4 Hz, 1H), 8.71 (d, J=2.4 Hz, 1H), 7.51 (s, 1H), 6.82 (s, 1H), 6.78 (s, 1H), 6.55 (s, 1H), 3.93 (s, 3H), 3.86 (s, 3H), 2.21 (s, 3H).

reactant | 4-chloro-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine | 0.191 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 4,5-dimethoxy-2-methylaniline | 0.287 mmol, 48 mg | COC1=CC(=C(N)C=C1OC)C | C9H13NO2
product | 4-(4,5-Dimethoxy-2-methylanilino)-2-(2-pyrazinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.COC1=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C=C1OC)C | InChI=1S/C18H16F3N5O2.ClH/c1-10-6-13(27-2)14(28-3)7-11(10)24-16-8-15(18(19,20)21)25-17(26-16)12-9-22-4-5-23-12;/h4-9H,1-3H3,(H,24,25,26);1H
